US06890924B2
[3-Methyl-4-(pyrid in-3-yloxy)-phenyl]-[6-(3-morpholin-4-yl-propenyl)-quinazolin-4-yl]-amine.
To a suspension of 0.035 g (0.091 mmol) of 3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-en-1-ol in 0.5 mL of methylene chloride and 1 mL of ethylene dichloride was added 1 mL of thionyl chloride. The reaction was heated at 100° C. for 1 hour and the solvents were evaporated to provide [6-(3-chloro-propenyl)-quinazolin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine [MS: M+ 403.1] which was dissolved in THF and used directly in the next reaction. To the solution of [6-(3-chloro-propenyl)-quinazolin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine was added 0.10 mL of morpholine and 0.044 mL of triethylamine. The mixture was heated at 85° C. for 16 hours, cooled to room temperature, and partitioned between 10% aqueous potassium carbonate and ethyl acetate. The aqueous layer was further extracted with ethyl acetate and the combined organics were dried and evaporated to yield 57 mg of material. The product was purified on a silica gel prep plate, eluting with 96:4:0.1 chloroform/methanol/concentrated ammonium hydroxide to afford 26 mg of the title compound; 1H NMR (CDCl3): δ 8.71 (s, 1), 8.33 (m, 2), 7.94 (s, 1), 7.80 (m, 2), 7.69 (s, 1), 7.58 (m, 1), 7.20 (m, 1), 6.94 (d, J8.7 Hz, 1), 6.68 (d, J=15.8 Hz, 1), 6.46 (m, 1), 3.79 (m, 4), 3.26(m, 2), 2.63 (m, 4), 2.25 (s, 3).

reactant | [6-(3-chloro-propenyl)-quinazolin-4-yl]-[3-methyl-4-(pyridin-3-yloxy)-phenyl]-amine | ClCC=CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC=CC1)C | C23H19ClN4O
reactant | morpholine | 0.10 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.044 mL | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | [3-Methyl-4-(pyrid in-3-yloxy)-phenyl]-[6-(3-morpholin-4-yl-propenyl)-quinazolin-4-yl]-amine | 57 mg | CC=1C=C(C=CC1OC=1C=NC=CC1)NC1=NC=NC2=CC=C(C=C12)C=CCN1CCOCC1 | C27H27N5O2
